US07582652B2
N′-{5-[2-(2,6-Dichlorophenyl)-3-methyl-5-phenyl-3H-imidazol-4-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-yl}-N,N-dimethylformamidine
Stir N′-{5-[2-(2,6-dichlorophenyl)-5-phenyl-3H-imidazol-4-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-yl}-N,N-dimethylformamidine prepared essentially as described in EXAMPLE 63 (0.10 g, 0.188 mmol), iodomethane (0.040 g, 0.282 mmol), and Cs2CO3 (0.09 g, 0.28 mmol) in DMF (1.5 mL) at RT for about 24 h. Extract with EtOAc and wash with water (3×), saturated aqueous NaCl, then dry over Na2SO4. Filter and concentrate to give a mixture of methyl isomers. Purify (silica gel chromatography) eluting with 1:1:0.4 CH2Cl2:acetonitrile:hexanes to give the title compound (0.02 g).

reactant | N′-{5-[2-(2,6-dichlorophenyl)-5-phenyl-3H-imidazol-4-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-yl}-N,N-dimethylformamidine | ClC1=C(C(=CC=C1)Cl)C1=NC(=C(N1)C1=CC=C2C(=N1)N(C(=N2)N=CN(C)C)CC(C)C)C2=CC=CC=C2 | C28H27Cl2N7
reactant | iodomethane | 0.282 mmol, 0.040 g | IC | CH3I
reactant | Cs2CO3 | 0.28 mmol, 0.09 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N′-{5-[2-(2,6-Dichlorophenyl)-3-methyl-5-phenyl-3H-imidazol-4-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-yl}-N,N-dimethylformamidine | 0.02 g | ClC1=C(C(=CC=C1)Cl)C1=NC(=C(N1C)C1=CC=C2C(=N1)N(C(=N2)N=CN(C)C)CC(C)C)C2=CC=CC=C2 | C29H29Cl2N7
